* NGSPICE LAB 3 GROUP 13

.options savecurrents
.param n =1/16															

*Indepedent Voltage Source Vs
Vs 1 0 0 sin(0 230 50 0 0 90) 									  

*Transformer

F1 1 0 E1 n													  
E1 2 3 1 0 n 

*Envelop Detector											 

D1 2 4 mydiode
D2 GND 2 mydiode
D3 3 4 mydiode
D4 GND 3 mydiode

R1 4 GND 1.5k

C1 4 GND 0.0001

*Voltage Regulator											

R2 4 5 5.2k
D5 5 6 mydiode
D6 6 7 mydiode
D7 7 8 mydiode
D8 8 9 mydiode
D9 9 10 mydiode 
D10 10 11 mydiode
D11 11 12 mydiode
D12 12 13 mydiode
D13 13 14 mydiode
D14 14 15 mydiode
D15 15 16 mydiode
D16 16 17 mydiode
D17 17 18 mydiode
D18 18 19 mydiode
D19 19 20 mydiode
D20 20 21 mydiode
D21 21 22 mydiode
D22 22 23 mydiode
D23 23 24 mydiode
D24 24 GND mydiode

*Simulation

.model mydiode D
.op
.end
.control

*makes plots in color
set hcopypscolor=0
set color0= rgb:f/f/f ;
set color1=rgb:1/1/1;
set color2=red;
set color3=green;
set color4=blue;
set color5= orange;
set color5= yellow;

op

echo "****************"
echo  "TRANSIENT ANALYSIS"
echo "****************"

*Transient Analysis starting at 10m and ending at 200m with steps of 0.0001
tran 0.0001 210m 10m							

*Measure the output voltage level using Ngspice’s average function on at least 1000 points (should be 12V ideally)
*Measure the output voltage ripple using Ngpice’s min and max functions: ripple(v_O ) = max(v_O ) - min(v_O )
echo "op1_TAB"							
print maximum(v(4))-minimum(v(4))
print mean(v(4))
print maximum(v(5))-minimum(v(5))
print mean(v(5))
echo "op1_END"

*COSTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTTT
echo "op2_TAB"
print 1/(109.1*(maximum(v(5))-minimum(v(5)))+abs(mean(v(5)-12))+10e-6) 
echo "op2_END"

*Plot the voltages at the output of the Envelope Detector and Voltage Regulator circuits
hardcopy sim4.ps {v(2)-v(3)} {v(4)} {v(5)} {v(5)-12}
echo sim4_FIG

hardcopy sim41.ps {v(4)}
echo sim41_FIG

hardcopy sim42.ps {v(2)-v(3)}
echo sim42_FIG

hardcopy sim43.ps {v(5)} 
echo sim43_FIG

hardcopy sim44.ps {v(5)-12}
echo sim44_FIG

*Plot (v_O – 12) (output AC component + DC deviation)
hardcopy sim5.ps {v(4)-12} {v(5)-12} 
echo sim5_FIG

quit
.endc
.end

